US06727264B1
N-(3-{1-[3-(1H-INDOL-1-YL)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure AH and Scheme P using 1-(3-chloropropyl)-1H-indole and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 404.2 (M+H)+.

reactant | 1-(3-chloropropyl)-1H-indole | ClCCCN1C=CC2=CC=CC=C12 | C11H12ClN
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[3-(1H-INDOL-1-YL)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | N1(C=CC2=CC=CC=C12)CCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C26H33N3O
